US09388195B2
B) Production of 1′-benzyl-7-methyltetrahydro-5H-spiro[1,3-oxazolo[3,4-a]pyrazine-1,4′-piperidin]-3-one
A mixture of tert-butyl 4-methylpiperazine-1-carboxylate (24.2 g), N,N,N′,N′-tetramethylethane-1,2-diamine (21 g) and tetrahydrofuran (500 mL) was cooled to −78° C. under a nitrogen atmosphere, and sec-butyllithium (184 mL, 1.3M cyclohexane solution) was added dropwise over 1.5 hr while stirring. Furthermore, the mixture was stirred at the same temperature for 2 hr, the reaction system was heated to 30° C., and the mixture was stirred for 1.5 hr. Thereafter, the reaction system was cooled again to −78° C., and a solution of 1-benzylpiperidin-4-one (28.3 g) in tetrahydrofuran (50 mL) was added dropwise over 1 hr. The reaction system was stirred at room temperature overnight, and the mixture was cooled to 0° C. Saturated aqueous ammonium chloride solution (100 mL) was added, and the mixture was stirred at room temperature for 30 min. The mixture was extracted with ethyl acetate (300 mL), and the extract was washed with water (300 mL) and dried over anhydrous sodium sulfate. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (17.6 g) as a brown oil.

reactant | tert-butyl 4-methylpiperazine-1-carboxylate | 24.2 g | CN1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | N,N,N′,N′-tetramethylethane-1,2-diamine | 21 g | CN(CCN(C)C)C | C6H16N2
reactant | sec-butyllithium | 1.3M, 184 mL | C(C)(CC)[Li]
reactant | 1-benzylpiperidin-4-one | 28.3 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 1′-benzyl-7-methyltetrahydro-5H-spiro[1,3-oxazolo[3,4-a]pyrazine-1,4′-piperidin]-3-one | 17.6 g | C(C1=CC=CC=C1)N1CCC2(CC1)OC(N1C2CN(CC1)C)=O | C18H25N3O2
